### PR TITLE
feat(FLT7): build exact prime-load fusion and concrete degree-six orientation

### PR DESCRIPTION
**Pull request by Deskuma**
## Summary

This Draft PR records the first completed **FLT7-FUSION expedition** from the real-cubic RAMIFIED axis-drop packet through exact prime-load allocation and the first concrete degree-six orientation layer.

The original FUSION-001 entry point has now developed into three completed or near-completed checkpoints:

```text
FUSION-001–003E
  signed-root / real-pair fusion

FUSION-003F
  unconditional prime-load allocation
  exact valuation and global ideal factorization

FUSION-004A
  concrete rank-six cyclotomic carrier
  oriented and conjugate degree-one prime addresses
```

Base:

```text
develop
```

Head:

```text
wip/FLT7-fusion-260729
```

## Completed foundation

The branch reconstructs exact signed-root data from the completed RAMIFIED packet and fixes:

```text
signedRightRoot - signedLeftRoot = 7^4 * gapRoot
signedSeventhQuotient signedRightRoot signedLeftRoot = 7 * quotientRoot
IsCoprime gapRoot quotientRoot
```

It constructs three real-pair carriers and normalized cores, proves the cores pairwise coprime, fixes their cyclic real-cubic Galois orbit, and proves the exact norm identity

```text
norm(realPairCore i) = -quotientRoot.
```

## FUSION-003F — exact prime-load fusion

The two unresolved routing cells are no longer required to be seventh powers. Their scalar mass is allocated canonically among the three real-pair cores by PID gcd projection:

```text
load21_i = gcd(c21, C_i)
load22_i = gcd(c22, C_i)
C_i = load21_i * load22_i * strippedCore_i.
```

The stripped cores remain pairwise coprime and are unconditionally seventh powers up to units:

```text
C_i ~ load21_i * load22_i * residualRoot_i^7.
```

The load families recover their scalar cells up to association, satisfy cyclic Galois coherence, and have exact norms:

```text
|norm(load21_i)| = c21
|norm(load22_i)| = c22.
```

For every prime divisor `q` of either routing cell, the branch constructs the canonical `mu_7` ratio address, proves `q % 14 = 1`, constructs the corresponding degree-one real-cubic maximal ideal, and proves the exact valuation identity

```text
evalKernelMultiplicity = padicValNat q addressedCell.
```

Over the finite prime support, these exact kernel powers reconstruct the principal load ideal.

The naive direct signed-root Fermat chart is also formally excluded by its exact seven-adic depth.

## FUSION-004A — concrete degree-six orientation

The branch constructs the explicit quadratic algebra

```text
QuadraticAlgebra SevenRealCubicInt (-1) (alpha - 1)
```

with integral rank six, explicit conjugate seventh roots `zeta` and `zetaInv`, and the oriented factors

```text
R - zeta * L
R - zetaInv * L.
```

Lean proves their product is the embedded real-pair carrier. Every canonical quotient-prime address extends to the degree-six carrier, producing two distinct maximal comaximal conjugate degree-one kernels. Both contract to the same real-cubic prime, contract to `(q)` over the integers, and have residue cardinality `q`.

## Exact frontier

The remaining local obligation is explicit and isolated:

```text
ConjugatePrimeFiberProductEqualityObligation
```

The proved inclusion is

```text
map(ofReal, realPrime) <= orientedPrime * conjugatePrime.
```

The next checkpoint must prove the reverse containment, or an equivalent theorem preserving the same oriented local data.

This PR does **not** claim:

- an exact conjugate-prime fibre product equality;
- a reconstructed primitive integer or quadratic FLT7 chart;
- a strict well-founded decrease;
- an inhabited recursive descent provider;
- terminal contradiction;
- unconditional FLT7.

## Reports

The final checkpoint is documented in:

```text
lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-003F-CYCLOTOMIC-PRIME-LOAD-LIFT-REPORT.md
lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-004A-DEGREE-SIX-ORIENTATION-REPORT.md
lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-004A-STATUS-part1.md
lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-004A-STATUS-part2.md
lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-004A-STATUS-part3.md
lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-004A-STATUS-part4.md
```

## Verification

- `lake build DkMath.FLT.Seven` succeeds;
- Lean CI succeeds at the final head;
- no new `sorry`, `admit`, `axiom`, or `native_decide` occurs in the new Lean modules;
- `git diff --check` succeeds.

This PR is the stable FUSION camp through the degree-six orientation checkpoint. Further work continues from `develop` in a new focused branch.

### CODE REVIEW

**Comment by Deskuma** [comment]
FLT7-FUSION-001 を実装し、Outcome A まで固定しました。

主な成果：

- RAMIFIED 最終対称補題
  - quotient core の七乗抽出
  - `RamifiedRealCubicBalancedAxisSplitPacket`
  - gap と quotient の双方を `axis³ × witness⁷` に分解
- 符号付き整数影
  - `IsCoprime l r`
  - `r - l = 7^4 * d`
  - `Φ₇(r,l) = 7 * E`
  - `7 ∤ d`, `7 ∤ E`
  - `d * E = a * (a+n) * m^7`
- algebraic depth 10 と integer depth 4 を同一 balanced packet に収録
- Norm の加法性は仮定していません

実装：

- SevenRealCubicAxisDrop.lean
- SevenRamifiedSignedRootDepth.lean
- FLT7-FUSION-001-REPORT.md

README、STATUS、ROADMAP、公開 facade も更新済みです。

検証結果：

- `lake build DkMath.FLT.Seven.SevenRealCubicAxisDrop` 成功
- `lake build DkMath.FLT.Seven.SevenRamifiedSignedRootDepth` 成功
- `lake build DkMath.FLT.Seven` 成功
- `git diff --check` 成功
- `sorry`、新規 `axiom`、`native_decide` なし
- 依存公理は従来どおり `propext`, `Classical.choice`, `Quot.sound`

次の有力な推論対象は、`IsCoprime d E` と canonical 2×3 routing、その後の FUSION-002 seventh-root source-plane classification です。DESCENT や新しい primitive Fermat chart はまだ主張していません。

File: lean/dk_math/DkMath/FLT/Seven/SevenRamifiedSignedRootDepth.lean [hunk 1]
```diff
@@ -0,0 +1,317 @@
...
+  simp [signedSeventhQuotientFirstVariation]
+  ring
+
+/-- Integer side of FUSION-001, attached to the completed balanced
+real-cubic axis split.  The exact depths are recorded division-free. -/
+structure RamifiedSignedRootDepthPacket : Type where
+  balanced : RamifiedRealCubicBalancedAxisSplitPacket
+  signedLeftRoot : ℤ
+  signedRightRoot : ℤ
+  signedRoots_isCoprime :
```
Comment (Deskuma) [inline lean/dk_math/DkMath/FLT/Seven/SevenRamifiedSignedRootDepth.lean:59]: The constructor currently assigns the canonical norm roots here, but the public structure does not preserve that fact. Please make these roots projections from `balanced`, or add explicit equality fields tying them to `balanced.axisDrop.depthLedger.exactPower.upToUnit.normPacket.leftRoot/rightRoot`. Without that coherence, downstream algebraic-to-integer transport cannot use this as a genuinely fused packet.

**Review by Deskuma — COMMENTED** [review]
## Review — FLT7-FUSION-001 integer-shadow checkpoint

The new theorem chain is mathematically coherent and establishes a substantial checkpoint.

### Confirmed results

- The RAMIFIED exit is now symmetric: both the root gap and the homogeneous quotient admit an axis-cube times seventh-power presentation.
- The signed integer roots are proved coprime.
- The quotient exactness is proved directly from the first-variation identity:
  `signedSeventhQuotient r l = 7 * E` with `7 ∤ E`.
- The power comparison then forces
  `r - l = 7^4 * d` with `7 ∤ d`.
- Cancellation yields the normalized identity
  `d * E = a * (a + n) * m^7`.
- This route does not assume additivity of the determinant norm. The integer depth-four argument is genuinely independent of the algebraic theta-depth computation.

The derivation of exact depth four is especially clean: first extract one factor of seven from the signed quotient, then use the total depth-five identity to force three additional factors into the preliminary gap quotient. The final nondivisibility proof correctly uses the three seven-unit factors on the normalized right-hand side.

### Structural coherence required before downstream fusion

`RamifiedSignedRootDepthPacket` stores `balanced` together with independent fields `signedLeftRoot` and `signedRightRoot`, but the structure does not state that these fields are the `leftRoot` and `rightRoot` of the norm packet contained in `balanced`.

The current constructor uses those canonical roots, so the inhabitance theorem is correct. However, that fact is lost at the public packet boundary. A downstream theorem cannot transport a statement from the algebraic packet to the stored integer roots.

The preferred repair is to make the signed roots canonical projections from `balanced` and remove the independent root fields. A smaller repair is to add explicit coherence fields:

```lean
signedLeftRoot_eq :
  signedLeftRoot =
    balanced.axisDrop.depthLedger.exactPower.upToUnit.normPacket.leftRoot

signedRightRoot_eq :
  signedRightRoot =
    balanced.axisDrop.depthLedger.exactPower.upToUnit.normPacket.rightRoot
```

This is the only substantive packet-design issue found in the implementation.

### Scope and naming

This commit completes the **signed integer-shadow half** of the original FUSION-001 plan. The coordinate-level norm first-variation bridge is still listed as future work in the report, so the full original FUSION-001 scope is not yet closed.

A precise checkpoint name would be:

```text
FUSION-001A — signed integer exact depth four
FUSION-001B — norm first-variation bridge
```

Also, `Outcome A` should be used carefully: the roadmap already reserves the A/B/C outcomes for the FUSION-002 seventh-root source-plane classification. The current result does not yet prove that a seventh root lies in the source plane.

### Recommended next order

1. Make the signed roots canonical in `RamifiedSignedRootDepthPacket`.
2. Prove `IsCoprime gapRoot quotientRoot` from root coprimality, the quotient first-variation identity, and the two seven-unit conditions.
3. Instantiate the canonical 2-by-3 routing for
   `d * E = a * (a + n) * m^7`.
4. Add the coordinate-level norm first-variation theorem and explicitly connect theta-depth 10 to seven-depth 4.
5. Only then begin FUSION-002 source-plane classification.

### Documentation note

The header of `docs/STATUS.md` still identifies PR `#65`, base branch `feature/FLT7-magic-core-260722-v0`, and the previous work branch. It should be updated to PR `#73`, base `feature/FLT7-magic-core-260722-v1`, and head `wip/FLT7-fusion-260729`.

Overall: the mathematical extraction is successful and the exact integer shadow is now available. After restoring packet coherence, this is a strong foundation for the canonical routing and the remaining norm bridge.

**Comment by Deskuma** [comment]
FUSION-001B を完了し、FUSION-002 の正確な入口まで進めました。

主な成果：

- signed root と balanced norm packet の coherence を追加
- `IsCoprime gapRoot quotientRoot` を証明
- `(gapRoot, quotientRoot, 1)` と `(a, a+n, m^7)` の canonical `2 × 3` routing を構築
- `theta^10` の差を `7^3 * theta * core` として再構成
- norm first variation
  ```text
  Norm (x + 7^3 * theta * core) - Norm x
    = 7^4 * coefficient
  ```
  を座標計算で証明
- この coefficient が signed packet の `gapRoot` と一致することを証明
- FUSION-002 について
  ```text
  IsSourcePlane (x^7)
    ↔ seventhSourcePlaneEquation x.fst x.snd x.thd = 0
  ```
  という完全な次数7整数方程式へ還元

実装ファイル：

- SevenRamifiedSignedRootDepth.lean
- SevenRamifiedSignedRootRouting.lean
- SevenRealCubicNormFirstVariation.lean
- SevenRealCubicSourcePlane.lean
- FLT7-FUSION-001-B-REPORT.md

STATUS、ROADMAP、README、facade も更新済みです。

検証結果：

- `lake build DkMath.FLT.Seven` 成功
- routing の最終修正後の focused build 成功
- `git diff --check` 成功
- 新規証明に `sorry`、独自 `axiom`、`native_decide` なし

現在の正確な停止点は、`seventhSourcePlaneEquation = 0` の primitive integral zero-locus 分類です。
この多項式は第三座標を単純な因子として持たないため、Outcome A は座標簡約だけでは導けません。
次は exact-power packet の coprimality と unit-sector 条件を投入して、Outcome A/B/C を決定する段階です。

**Comment by Deskuma** [comment]
FUSION-002 を A/B/C と整数 unit-sector まで進め、Lean で固定しました。

実装した内容：

- 整数 theta 座標
  ```text
  A = x₀ + 3x₁ + 9x₂
  B = x₁ + 6x₂
  C = x₂
  x = A + Bθ + Cθ²
  ```
- 七乗の divided coordinates
  ```text
  thetaLinearInt (x^7) = 7·G(A,B,C)
  thetaSquareInt (x^7) = 7·H(A,B,C)
  ```
- 修正済み三角分解
  ```text
  G = B·GB(A,B,C) + 7C²·GC(A,C)
  H = C·HC(A,B,C) + B²·HB(A,B)
  ```
- 四つの先頭剰余
  ```text
  GB ≡ A⁶
  GC ≡ -3A⁵
  HC ≡ A⁶
  HB ≡ 3A⁵          (mod 7)
  ```
- signed integer route
  ```text
  quotientRoot ≡ 1
  gapRoot ≡ a²m      (mod 7)
  ```

設計文書に対する重要な補正として、`GB` は `C` に、`HC` は `B,C` に依存します。この依存を消すと実在する交差項が欠落します。Lean では正しい依存型の因子式を採用しました。

新規ファイル：

- SevenRealCubicThetaCoordinates.lean
- SevenRealCubicThetaSeventhPower.lean
- SevenRamifiedFusionUnitSector.lean
- FLT7-FUSION-002-REPORT.md

README、STATUS、ROADMAP、facade も更新しました。

検証結果：

- focused builds 成功
- `lake build DkMath.FLT.Seven` 成功
- `git diff --check` 成功
- 新規コードに `sorry`、独自 `axiom`、`native_decide` なし

FUSION-002 全体の残るゲートは、actual left/right source equations と theta-constant の seven-unit 性を接続し、

```text
v₇(B)=3
v₇(C)=6
```

を packet として証明する部分です。これが閉じるまでは Outcome A の不可能性や Outcome B′ の完成を宣言していません。次は exact `(3,6)` root-jet packet の構築です。

**Review by Deskuma — COMMENTED** [review]
Retry

**Review by Deskuma — COMMENTED** [review]
## Review — FUSION-002 theta-triangular checkpoint

This commit is mathematically coherent and materially changes the shape of FUSION-002.

### Confirmed checkpoint

The integral theta basis is now explicit and reconstructive:

```text
x = A + B*theta + C*theta^2.
```

The two nonconstant coordinates of the seventh-power map are no longer treated as one unrestricted degree-seven zero-locus equation. They are presented as the triangular system

```text
G = B*GB(A,B,C) + 7*C^2*GC(A,C)
H = C*HC(A,B,C) + B^2*HB(A,B),
```

with the exact leading residues

```text
GB = A^6,
GC = -3*A^5,
HC = A^6,
HB = 3*A^5                 (mod 7).
```

The dependency correction is important and correct: `GB` genuinely depends on `C`, and `HC` genuinely depends on both `B` and `C`. Removing those dependencies would erase real mixed terms rather than simplify the theorem.

The independent signed route is also sharpened correctly:

```text
quotientRoot = 1           (mod 7)
gapRoot = a^2*m            (mod 7).
```

In particular, `quotientRoot_eq_left_pow_six_add_correction` is stronger than the residue statement: the correction begins at `7^3`, exactly because the signed root gap has depth four before division by the first factor of seven.

### The next exact-depth proof can be division-free

The remaining `(3,6)` jet theorem does not require a general integer valuation framework. It can be proved by three iterations of the triangular lifting mechanism.

For an actual source root, first establish

```text
G(A,B,C) = sign * 7^3 * m^7
H(A,B,C) = 0
7 does not divide A
7 does not divide m.
```

The factor residues then make `GB`, `HC`, and `HB` seven-units.

A single lifting step has the following form. Assuming

```text
7^k divides B
7^(2*k) divides C
k < 3,
```

factor `7^k` from the equation for `G`. The second triangular term still contains at least one additional factor of seven, and the right-hand side still contains one because `k < 3`. Reduction modulo seven therefore forces one more factor into `B`:

```text
7^(k+1) divides B.
```

Then `H = 0` and the seven-unit property of `HC` transfer the square depth of `B` into `C`:

```text
7^(2*(k+1)) divides C.
```

Iterating at `k = 0, 1, 2` gives

```text
B = 7^3*u
C = 7^6*v.
```

After division by the exact powers, reduction modulo seven yields

```text
u = sign*m                         (mod 7)
A*v + 3*u^2 = 0                    (mod 7).
```

These equations prove that both `u` and `v` are seven-units, so the depths are exact rather than lower bounds.

This iterative lemma would be a useful reusable API, for example:

```lean
theorem triangularJet_depth_step
    (k : Nat) (hk : k < 3)
    (hB : 7^k ∣ B)
    (hC : 7^(2*k) ∣ C)
    ... :
    7^(k+1) ∣ B ∧ 7^(2*(k+1)) ∣ C
```

### Recommended packet boundary

The immediate output should retain more than the two exact depths. Each root jet should record:

```text
A = thetaConstInt root
B = 7^3*u
C = 7^6*v
A = innerFst                  (mod 7)
u = sign*innerSndRoot         (mod 7)
A*v + 3*u^2 = 0               (mod 7)
7 does not divide A*u*v.
```

The left and right roots should then be paired in one packet. The paired packet will prove, without another search:

```text
u_left  = -m                  (mod 7)
u_right =  m                  (mod 7)
v_left  = v_right             (mod 7)
```

The last equality follows because the quadratic correction depends on `u^2`, not on the sign of `u`.

### Strong consequence after the paired packet

Once the exact jets are fixed, Outcome A is formally impossible: `C = 7^6*v` with `7 ∤ v`, so neither exact root lies in the source plane.

However, the surviving three-coordinate roots are not unrestricted Outcome C objects. They lie on a single ramified quadratic jet graph:

```text
v = -3*A^(-1)*u^2             (mod 7).
```

Thus the correct outcome is a controlled finite theta-jet sector, stronger than merely saying that a third coordinate survives.

The paired residues also predict a sharper gap normal form. The linear jet difference has residue `2*m`, while the quadratic jet residues agree. Therefore the exact theta-depth ten of `rightRoot - leftRoot` is carried only by the linear jet. This should allow a coordinate proof of the residue of the algebraic normalized gap core, rather than only its nondivisibility.

A useful next epilogue after the jet packet is therefore:

```text
theta-linear gap core = 2*m             (mod 7)
theta-square gap gains one extra factor of seven
```

and then a comparison with the existing depth-ledger `gapCore`.

### FUSION-003 decision gate

The newly proved integer sector

```text
quotientRoot = 1              (mod 7)
```

is the strongest candidate for a direct reconstruction bridge. The existing terminal route already identifies the normalized positive unit sector with row `Y`, but the current branch does not yet identify `quotientRoot` with that terminal normalized unit. That identification should be tested only after the exact paired jet packet is available.

Recommended order:

1. prove the generic triangular depth-step lemma;
2. construct exact left and right `(3,6)` jet packets;
3. pair their residues and formally exclude Outcome A;
4. derive the normalized algebraic gap-core residue from the paired jet difference;
5. test the bridge from `quotientRoot = 1` to the existing row-`Y` terminal unit sector;
6. choose direct reconstruction only if that bridge preserves the same fixed routing data; otherwise lift the controlled jet packet to the degree-six cyclotomic carrier.

No substantive defect was found in this commit. The documentation boundary is appropriately conservative: the triangular mechanism is complete, while exact jet classification and the A/B/C decision remain open until the packet-level `(3,6)` theorem is constructed.

**Comment by Deskuma** [comment]
FUSION-002 を Lean で固定しました。分類結果は、文書が予測した controlled finite theta-jet outcome（B′）です。

実装した主要結果：

- division-free な triangular jet lifting
  - 深さ `(k, 2k)` から `(k+1, 2k+2)`
  - 3回反復して正確な深さ `(3, 6)`
- 左右の seventh-power root を正規化
  - `θ` 係数を `7³ * U`
  - `θ²` 係数を `7⁶ * V`
- 正確な剰余関係
  - `U ≡ ±M (mod 7)`
  - `A * V + 3 * U² ≡ 0 (mod 7)`
  - `7 ∤ U`、`7 ∤ V`
- 左右を一つの paired packet に統合
- 両 root が source plane に属さないことを証明
- fusion slope
  - `τ = m / a`
  - 右 linear jet: `τ`
  - 左 linear jet: `-τ`
  - quadratic jet: `-3τ²`
- 六-sector 用有限アドレス
  - row coordinate: `τ³`
  - column coordinate: `τ²`
  - `row / column = τ`
  - `τ ≠ 0`

主要ファイル：

- SevenRamifiedThetaJetLifting.lean
- SevenRamifiedPairedThetaRootJet.lean
- SevenRealCubicThetaCoordinates.lean
- 実装レポート
- ROADMAP.md
- STATUS.md

検証結果：

- focused build 成功
- `lake build DkMath.FLT.Seven` 成功（8366 jobs）
- `git diff --check` 成功
- `sorry`、追加 `axiom`、`native_decide` なし
- 標準公理以外の依存なし

現在の正確な停止点は、`(τ³, τ²)` が既存の routing margin・away row・cyclotomic index のどれに一致するかを証明する段です。有限アドレスまでは構成できましたが、特定の routing cell への同定はまだ証明していません。したがって chart closure、descent、FLT7 の結論もまだ主張していません。

**Review by Deskuma — COMMENTED** [review]
## Review — FUSION-002 exact paired theta-jet classification

This checkpoint successfully completes the source-plane classification promised by FUSION-002.

### Confirmed mathematical boundary

The new implementation proves, without introducing a general valuation layer, the reusable triangular lift

```text
(k, 2k) -> (k+1, 2k+2),  k < 3,
```

and iterates it to exact nonzero theta-coordinate depths `(3,6)`. The normalized roots are then coherently attached to the actual exact-power packet:

```text
XL = AL + 7^3*UL*theta + 7^6*VL*theta^2
XR = AR + 7^3*UR*theta + 7^6*VR*theta^2

UL = -m, UR = m                         in F7
AL*VL + 3*UL^2 = 0                      in F7
AR*VR + 3*UR^2 = 0                      in F7
```

with all displayed normalized coordinates nonzero where required. This correctly excludes Outcome A: neither exact root lies in the source plane. It also avoids an overstatement of unrestricted Outcome C. The result is the controlled finite theta-jet outcome B'.

The projective fusion invariant is now genuinely shared by the algebraic and signed-integer layers:

```text
tau = m/a = gapRoot/a^3,
left jet  = (-tau, -3*tau^2),
right jet = ( tau, -3*tau^2).
```

This is a substantial fusion theorem, not merely a residue enumeration.

### Important distinction for the next gate

The theorem

```text
fusionSlope = gapRoot / a^3
```

already identifies the theta-jet slope with a **signed routing margin**. That part of the routing bridge is complete.

It does **not** yet identify `(tau^3,tau^2)` with one of the six active cells of `RamifiedSignedRootRoutingPacket`. The two objects currently live at different levels:

- `CoprimeTripleRouting` records natural-number factor support and canonical gcd cells;
- `SevenUnitGridAddress` records one nonzero residue unit in `F_7^x`.

The shared cardinality `2 x 3 = 6` is not by itself an arithmetic identification. After the neutral third row is removed, fixed row and column margins on a `2 x 3` unit board still leave two independent cycle parameters. A direct cell selection therefore requires an additional theorem, not a naming convention.

Recommended intermediate layer:

1. Prove the third routing row is exactly `(1,1,1)`.
2. Prove all six active cells are seven-units.
3. Define the modulo-seven unit shadow of the active board.
4. Expose its two canonical `K_{2,3}` cycle ratios (cross-ratios).
5. Only then test whether those cycle invariants are constrained to the one-parameter curve generated by `tau`, or whether the existing data leave genuine extra freedom.

This will decide whether FUSION-003A can select a routing cell directly or whether the routing board needs one more equation from the algebraic packet.

### Strengthen the six-sector API

`SevenUnitGridAddress` is mathematically the Chinese-remainder decomposition of the cyclic group of order six:

```text
F_7^x  ~=  mu_2 x mu_3,
s |-> (s^3, s^2).
```

The current reconstruction theorem is correct. The next API should make the sector claims explicit:

```text
rowComponent^2 = 1
columnComponent^3 = 1
rowComponent != 0
columnComponent != 0
```

Preferably the slope and both components should be units/subtypes rather than unrestricted `ZMod 7` values. Then prove an actual equivalence between `(ZMod 7)^x` and the binary/ternary sector product. The paired roots immediately satisfy:

```text
left row component  = - right row component
left column component = right column component.
```

That is the precise sense in which the roots occupy opposite rows of one common column.

### Away-row bridge must be split into two observables

The existing terminal normalized sign only separates

```text
Y  versus  {Z, Sum}.
```

Therefore `tau^3` can at most provide the binary part of an away-row identification. It cannot distinguish `Z` from `Sum`. A complete bridge needs a second, genuinely ternary observable, most likely extracted from the exact load quotient or from the next normalized coefficient. Do not identify the full `EndpointRoutingRow` from `tau^3` alone.

A useful conditional target is:

```text
normalized terminal sign = tau^3
terminal ternary invariant = tau^2.
```

The first equality should use the existing `quotientRoot = 1` sector together with an explicit identification of the terminal root-linear and endpoint units. The second equality will require new arithmetic information.

### Cyclotomic interpretation

The six nontrivial cyclotomic indices form an `F_7^x` torsor. The safest first bridge is not to declare one factor equal to the routing cell selected by `tau`. Instead use `tau` to normalize the torsor:

```text
relativeIndex(k) = k / tau.
```

This canonically makes `k=tau` the relative identity while retaining all six linear factors. A later Kummer theorem can determine whether the relative-identity factor has the distinguished algebraic property needed for descent.

### Strong next algebraic theorem

The paired packet should now be joined back to the existing theta-depth-ten ledger. Since

```text
UR - UL = 2m                 mod 7
VR - VL = 0                  mod 7,
```

and `7 = theta^3 * thetaSevenUnit` with theta-residue `-1`, the normalized root-gap core is predicted to satisfy

```text
thetaResidue(gapCore) = -2*m.
```

Proving this would close a new commutative square:

```text
paired theta jets
  -> normalized algebraic gap core
  -> norm first variation
  -> signed gapRoot = a^2*m mod 7.
```

This is the highest-value immediate theorem before choosing FUSION-003A or FUSION-003B.

### Further prediction

After normalization, the two equations have a triangular Jacobian modulo seven with determinant `A^12`, hence a unit. This strongly suggests that the B' residue sector is the first layer of a unique multivariate Hensel branch, not merely a finite list of unrelated congruence classes. A finite-level uniqueness theorem modulo successive powers of seven may eventually provide the missing rigidity for chart reconstruction.

### Documentation note

The final historical section of `docs/STATUS.md` still says “FUSION-001 therefore has Outcome A” and lists coprimality, routing, norm first variation, and source-plane classification as future obligations. Those statements are now stale and conflict with the current status header. Please update or mark that section as a superseded checkpoint.

Overall: FUSION-002 is complete and the B' classification is mathematically well packaged. The next phase should distinguish margin identification, routing-cell unit shadow, away-row observables, and cyclotomic torsor normalization rather than collapsing them into one six-element analogy.

**Comment by Deskuma** [comment]
FUSION-003 pre-bridge を Lean で固定しました。判定は「pre-bridge 完了を伴う Outcome C」です。

主な成果：

- depth-10 `gapCore` の先頭係数を確定
  - `Uᵣ - Uₗ ≡ 2m`
  - `Vᵣ - Vₗ ≡ 0`
  - `thetaResidue gapCore = -2m`
- 六 sector を正式な群同型へ昇格
  - `(ZMod 7)ˣ ≃ μ₂ × μ₃`
  - `s ↦ (s³, s²)`
  - 左右 root は反対の binary row、同じ ternary column
- Jacobian reconnaissance
  - `det J = A¹²`
  - `A ≠ 0 → det J ≠ 0`
- Row-Y / Row-Z provenance の消失を確認し、summit 前の薄い provenance packet を追加
- signed routing を補強
  - `c31 = c32 = c33 = 1`
  - 六つの active cell はすべて 7-unit
  - `natAbs` が失う signed margin を別 packet に保存
  - `κ₁₂`, `κ₂₃` の二つの cycle ratio を定義
  - 入力 signed-depth との同一性を保持する coherent routing constructor を追加
- paired jet と routing を同じ signed-depth 上で結ぶ audit packet を inhabited にした
- cyclotomic 側は安全な torsor 正規化まで実装
  - `relativeIndex(k) = k / τ`
  - `relativeIndex(k) = 1 ↔ k = τ`
  - 特定因子の distinguished/Kummer 性は未主張

主要ファイル：

- SevenRamifiedPairedThetaRootJet.lean
- SevenRamifiedFusionSectorEquiv.lean
- SevenRamifiedFusionRoutingAudit.lean
- SevenRamifiedSignedRootRouting.lean
- 実装レポート
- ROADMAP.md
- STATUS.md

検証結果：

- focused builds 成功
- `lake build DkMath.FLT.Seven` 成功（8368 jobs）
- `git diff --check` 成功
- `sorry`、追加 `axiom`、`native_decide` なし

次の正確な関門は二択です。

1. `κ₁₂ = f(τ)`、`κ₂₃ = g(τ)` を証明して直接 chart reconstruction へ進む。
2. relative cyclotomic index のどれかについて、divisibility・association・seventh-power property を証明して Kummer factor を正当に選ぶ。

現時点ではどちらの橋も未証明なので、routing cell や cyclotomic factor は選択していません。

**Review by Deskuma — COMMENTED** [review]
## Review — FUSION-003 pre-bridge and the residual cyclic phase

This checkpoint is mathematically coherent and completes the intended pre-bridge audit.

### Confirmed boundary

- The depth-ten algebraic gap now has an explicit leading residue, not merely exact nondivisibility:
  `thetaResidue gapCore = -2*m`.
- The six unit sectors are formalized as the multiplicative equivalence
  `(ZMod 7)ˣ ≃ μ₂ × μ₃`, with the paired roots occupying opposite binary sectors and the same ternary sector.
- The normalized triangular branch is nonsingular modulo seven through the determinant `A^12`.
- The old Y/Z provenance loss is correctly repaired by a thin pre-summit packet rather than by duplicating the common summit.
- The signed routing board is now coherent with the same signed-depth object as the paired theta jet; its neutral third row and active seven-unit shadow are available.
- The relative cyclotomic index is correctly presented only as a reversible torsor translation. No factor has been selected without a divisibility or power theorem.

### Structural refinement of the routing branch

The two defined cycle ratios should not yet be treated as two genuinely independent terminal parameters. For an active unit board with row products `R1,R2` and column products `B1,B2,B3`, direct cancellation gives

```text
kappa12 / kappa23 = (R1 / R2) / B2^3,
kappa12^3 = (B1 / B2)^3,
kappa23^3 = (B2 / B3)^3.
```

After specializing the margins to the signed FUSION equation, using

```text
quotientRoot = 1 mod 7,
a + n = a mod 7,
m^7 = m mod 7,
```

the first identity should reduce to the unsigned slope

```text
kappa12 / kappa23 = |m| / |a|.
```

Its square is the already proved signed invariant `tau^2`. Thus the routing cycles are expected to collapse to one residual ternary parameter rather than remain a free two-parameter family.

There is also a more important limitation: cycle ratios do not reconstruct the complete active board. The margin fiber admits the action

```text
u1j -> omega * u1j
u2j -> omega^-1 * u2j
```

for every `omega^3 = 1`. This preserves every row margin, every column margin, and both cycle ratios. Columnwise simultaneous sign flips similarly express the orientation lost by `natAbs`.

Therefore even explicit formulas for both cycle ratios would not, by themselves, select all routing cells. The honest remaining obstruction is a cyclic `μ₃` phase, together with the already isolated sign orientation.

### Galois interpretation

This residual `μ₃` phase is structurally compatible with the existing cyclic order-three automorphism of the discriminant-49 real cubic field. From the current formulas

```text
sigma(alpha) = alpha^2 - 2*alpha,
theta = alpha - 3,
```

one obtains

```text
sigma(theta) = theta * (theta + 4).
```

Hence the leading theta residue of a depth-`d` element transforms by `4^d` modulo theta. Multiplication of the FUSION slope by `4` preserves its binary component because `4^3 = 1`, while cycling its ternary component. This is exactly the behavior of the unresolved column phase.

The next stage should therefore be framed as cyclic-phase alignment rather than as an arbitrary search for two unrelated functions of `tau`.

### Recommended next checkpoint

1. Prove the generic row/column-margin identities for `cycleRatio12` and `cycleRatio23`.
2. Specialize them to the FUSION margins and prove the ratio/square relation with `fusionSlope`.
3. Define the ternary row-twist action on `ActiveUnitBoard` and prove that margins and both cycle ratios are invariant.
4. Formalize the action of `rotateEquiv` on `eisensteinAxis` and on exact theta leading residues; identify its ternary sector action.
5. Package the remaining ambiguity as a `Fin 3` or `SevenTernarySector` phase and test whether rotation aligns the routing unit shadow with the paired theta-jet address.
6. On the cyclotomic side, first select the conjugate pair rather than a single factor. The real-cubic datum canonically sees the relative square index
   `(k / tau)^2`; relative square index one should characterize the pair `{tau,-tau}`. A single representative should only be selected after a binary-orientation theorem.

This sharpens the current Outcome C: the remaining obstruction is not an unrestricted routing board or an unpointed six-element torsor, but one controlled cyclic Galois phase after the pre-bridge data are fixed.

The PR should remain Draft. This review does not assert a reconstructed chart, a distinguished Kummer factor, a strict decrease, a descent provider, or FLT7.

**Comment by Deskuma** [comment]
FLT7-FUSION-003-CYCLIC を、作用比較の直前まで Lean で固定しました。

主な成果：

- routing cycle の三つの margin 恒等式
- `(κ₁₂ / κ₂₃)² = τ²`
- visible `μ₃` cycle twist、hidden row twist、column `μ₂` gauge
- unit-shadow の非一意性 witness
- `σ(θ) = θ² + 4θ = θ(θ+4)`
- depth-10 回転による residue の4倍作用
- `Fin 3` で添字付けた `-2m, -m, 3m`
- `relativeRealIndex(k) = (k/τ)²`
- `relativeRealIndex(k)=1 ↔ k=τ ∨ k=-τ`

実装：

- SevenRamifiedFusionCycleNormalForm.lean
- SevenRamifiedFusionCyclicBridge.lean
- SevenRamifiedFusionRotationPhase.lean
- SevenRamifiedFusionRelativeRealIndex.lean

推論結果と停止境界：

- FLT7-FUSION-003-CYCLIC-REPORT.md
- STATUS.md
- ROADMAP.md

残る壁は明確です。real-cubic rotation が canonical routing board 上の visible cycle twist、hidden row twist、またはそのどちらでもないかを示す「rotation-routing naturality」が不足しています。
抽象的な三相ラベルの同一視だけでは不十分なため、完全な cyclic alignment packet はまだ inhabited としていません。

検証結果：

- `lake build DkMath.FLT.Seven` 成功 — 8372 jobs
- `git diff --check` 成功
- `sorry`、`axiom`、`native_decide` なし

**Review by Deskuma — COMMENTED** [review]
## FUSION-003-CYCLIC review — the action boundary is now sharp

This checkpoint is mathematically coherent and stops at the correct formal boundary. The new modules establish all of the intended finite structure:

- the three cycle/margin identities;
- the unsigned routing bridge and `(κ12 / κ23)^2 = τ^2`;
- explicit visible `μ3`, hidden `μ3`, and column `μ2` actions with non-uniqueness witnesses;
- `σ(θ) = θ(θ+4)` and the depth-ten residue multiplier `4`;
- the three residual phases `-2m, -m, 3m`;
- the real conjugate-pair index `(k/τ)^2` and its exact fibre `{τ,-τ}`.

The main conclusion of this review is that the next object should **not** be a theorem identifying real-cubic rotation with a nontrivial action on the canonical gcd routing board.

The routing packet is determined from integer margins (`gapRoot`, `quotientRoot`, `a`, `a+n`, `m^7`) by canonical gcd cells. Real-cubic Galois rotation fixes rational integers and determinant norms. Therefore the natural projection from a rotated algebraic lift to this integer routing base should be constant. In that strict sense the rotation is expected to be neither the visible cycle twist nor the hidden row twist on the canonical board; it is a deck transformation in the algebraic fibre over a fixed routing object.

There is, however, a direct cyclic carrier already available inside the real cubic order. Let `r = signedRightRoot`, `l = signedLeftRoot`, and put

```text
T = r^2 + r*l + l^2
S = r*l
α0 = α
α1 = σ(α)
α2 = σ²(α).
```

Define the three real cyclotomic pair carriers

```text
P_i = T - α_i*S.
```

Because `r,l` are integers, rotation acts only on the coefficient, so

```text
σ(P_0) = P_1,
σ(P_1) = P_2,
σ(P_2) = P_0.
```

The minimal polynomial `X^3 - 2X^2 - X + 1` gives the exact factorization

```text
P_0 * P_1 * P_2 = signedSeventhQuotient r l.
```

This is the conjugate-pair factorization of the six cyclotomic linear factors, but it remains entirely in the already formalized real cubic order.

Writing `θ = α - 3`, the three coefficient gaps are

```text
α0 - 3 = θ,
α1 - 3 = θ*(θ+4),
α2 - 3 = θ*(θ^2 + 6θ + 9),
```

whose unit residues are exactly

```text
1, 4, 2.
```

Since `r-l = 7^4*gapRoot`, each pair carrier has exact theta depth one:

```text
P_i = θ * C_i,
```

and its normalized core has leading residue

```text
res(C_i) = -phase_i * (r*l mod 7).
```

A small missing residue theorem should first prove

```text
r ≡ l ≡ a^3 (mod 7),
```

so `r*l ≡ a^6 = 1`. Hence the three pair-core residues become

```text
-1, -4, -2.
```

This immediately explains the existing universal result `quotientRoot ≡ 1`: the product of the three core residues is `-1`, while `θ^3 / 7` also has residue `-1`.

More importantly, the already proved ternary jet column `τ^2` now selects one of these three **real pair carriers** without choosing an oriented cyclotomic factor. Define the phase equivalence

```text
Fin 3 ≃ SevenTernarySector
0 ↦ 1
1 ↦ 4
2 ↦ 2
```

and select the unique `i` with `phase_i = τ^2`. This is exactly the internal real-cubic version of

```text
relativeRealIndex(k) = 1
  ↔ k = τ or k = -τ.
```

The selected normalized pair core should then satisfy

```text
res(selectedPairCore) = -τ^2.
```

This also aligns directly with the completed quadratic jet:

```text
right normalized quadratic jet = -3*τ^2.
```

Thus the next bridge is not `rotation -> routing twist`; it is

```text
signed integer seventh quotient
  -> three real cyclotomic pair carriers
  -> ternary phase τ^2 selects one conjugate pair
  -> compare its normalized core with the quadratic theta jet.
```

Recommended next module:

```text
SevenRamifiedFusionRealPairCarrier.lean
```

Recommended first theorem sequence:

1. signed roots are both `a^3` modulo seven;
2. explicit formulas for `α0, α1, α2` and the three theta-axis unit quotients;
3. `P0 * P1 * P2 = signedSeventhQuotient r l`;
4. exact `P_i = θ*C_i` decompositions;
5. core residues `-1,-4,-2` and recovery of `quotientRoot ≡ 1`;
6. `Fin 3 ≃ SevenTernarySector` with phases `1,4,2`;
7. selected pair phase `τ^2` and residue `-τ^2`;
8. comparison with the normalized quadratic jet `-3τ^2`.

After this packet, inspect pairwise coprimality of the three normalized cores. If it closes, proceed with an equivariant real-pair Kummer extraction. Only if that extraction genuinely requires orientation should the full degree-six carrier be introduced.

Keep the PR Draft. This checkpoint does not yet select an oriented factor, reconstruct a primitive chart, prove strict descent, or prove FLT7.

**Comment by Deskuma** [comment]
FUSION-003D を実装し、実ペア carrier と quadratic jet の直接融合まで Lean で固定しました。

主な成果：

- signed roots の mod 7 residue と積 `= 1`
- 明示的同値 `Fin 3 ≃ SevenTernarySector`
- 三つの real pair carrier の積分解
- `Pᵢ = θ Cᵢ`
- 全 `Pᵢ` の exact θ-depth 1
- `thetaResidue Cᵢ = -pairPhase(i)`
- core 積による `quotientRoot` の厳密再構成
- `quotientRoot ≡ 1 mod 7` の第二証明
- `τ²` による unordered pair `{τ,-τ}` の選択
- 左右 quadratic jet と selected core residue の直接融合
- axis-unit 差の norm `(-1,-1,1)` と global-unit 性

実装：

- SevenRamifiedFusionRealPairCarrier.lean
- Seven.lean

記録：

- 実装レポート
- STATUS.md
- ROADMAP.md
- README.md

検証結果：

- `lake build DkMath.FLT.Seven.SevenRamifiedFusionRealPairCarrier` 成功
- `lake build DkMath.FLT.Seven` 成功、8373 jobs
- `git diff --check` 成功
- `sorry`、`admit`、追加 axiom なし

停止点は pair cores の pairwise coprimality です。axis-unit 差がすべて unit であるところまでは証明済みですが、残るには

```text
IsCoprime (r*l) gapRoot
```

と、整数の共通素因子を三次整数環へ輸送する補題が必要です。したがって oriented factor、seventh-power extraction、primitive chart、DESCENT はまだ主張していません。

**Review by Deskuma — COMMENTED** [review]
FUSION-003D is a genuine completion of the real-pair carrier layer. The current module now fixes the three real conjugate-pair factors, exact theta depth one, the structural quotient-root reconstruction, the explicit ternary pair coordinate, and the direct quadratic-jet fusion certificate. The stop before pairwise coprimality is mathematically honest.

The next coprimality bridge can be narrower than the report currently predicts. A mixed prime-divisor transport from the cubic order back to the integers should not be necessary.

Write

- `r = signedRightRoot`, `l = signedLeftRoot`, `d = gapRoot`;
- `R = r*l` as an integer scalar in `SevenRealCubicInt`;
- `H = theta^23 * thetaSevenUnit^8 * d^2`;
- `C_i = H - u_i*R`.

First, `IsCoprime (r*l) d` follows directly from the existing Bezout data. From

`IsCoprime l r`

and

`r-l = 7^4*d`,

substitute `l = r-7^4*d` and `r = l+7^4*d` into the Bezout identity. This gives `IsCoprime r d` and `IsCoprime l d`, hence `IsCoprime (r*l) d`. No seven-primitivity is needed for this step.

Second, map that integer coprimality into `SevenRealCubicInt` with `Int.castRingHom`. Prove separately that `R` is coprime to `theta`: the already proved residue `R = 1 mod 7`, together with `7 = theta^3 * thetaSevenUnit`, gives an explicit Bezout identity between `R` and `theta`. Thus `R` is coprime to every factor of `H`, so `IsCoprime R H`.

Now use only affine Bezout transformations:

`C_i = H-u_i*R`

implies `IsCoprime R C_i`. Also

`C_i-C_j = -(u_i-u_j)*R`,

and every nonzero axis-unit difference is a global unit by the new theorems. Therefore `C_i` and `C_j` are coprime. This proves pairwise coprimality without factoring a cubic prime or transporting it to an integer prime.

The next important theorem after coprimality is not yet seventh-power extraction. The three carriers and cores have a stronger Galois naturality:

`P_i = sigma^i(P_0)`

and, after cancelling the normalized axis,

`C_1 = u_1 * sigma(C_0)`,

`C_2 = u_2 * sigma^2(C_0)`.

This should yield the exact norm gate

`norm (C_i) = -quotientRoot`

for all three indices. Indeed `norm(P_0)` is the product of the three carriers, hence `7*quotientRoot`, while `norm(theta) = -7`.

That norm identity is the correct decision boundary for the next extraction step. Pairwise coprimality alone does not imply that a selected core is a seventh power, because the product of the cores is associated to `quotientRoot`, not presently to a known seventh power. If a theorem later proves `quotientRoot = z^7` (or the corresponding signed/unit form), then pairwise coprimality plus the PID/GCD API can split the product and produce seventh powers up to units. Without such a theorem, a direct Kummer extraction would be unjustified.

Recommended next checkpoint:

1. prove `signedRootsProduct_isCoprime_gapRoot` by Bezout substitution;
2. prove scalar `R` is coprime to `theta` and map `R ⟂ d` into the cubic order;
3. prove `R ⟂ H`, then `R ⟂ C_i`;
4. prove `realPairCore_pairwiseCoprime` using the unit differences;
5. prove the Galois naturality of `P_i` and `C_i`;
6. prove `norm_realPairCore_eq_neg_quotientRoot`;
7. make `quotientRoot` seventh-power status the explicit branch gate.

Keep the PR Draft. Do not infer a seventh-power association merely from pairwise coprimality, and do not introduce the full degree-six carrier unless the later binary orientation genuinely requires it.

**Comment by Deskuma** [comment]
FUSION-003E を実装し、可能な Branch A まで一気に閉じました。

主な成果：

- `IsCoprime (r*l) gapRoot` を直接 Bezout 証明
- 3つの real-pair core の pairwise coprimality
- carrier の Galois 巡回と core の unit-twisted orbit
- 全 core について `norm Cᵢ = -quotientRoot`
- 列3の `c13,c23,c33` がすべて7乗
- 厳密な残存条件を双方向で固定：

```text
quotientRoot が符号付き7乗
  ↔
c21 と c22 が自然数7乗
```

- この二セル条件から、3つの core すべてに PID associated-power extraction を構築
- `c21,c22` をそれぞれ対応する gcd address として明示

実装は SevenRamifiedFusionRealPairCoprimalityNormGate.lean です。

現在の正確な停止点は `c21,c22` の7乗性です。旧 RAMIFIED-006 の `c21 = 1` は異なる routing board の定理であり、coherence theorem なしには転用できません。符号・整除性を証明せず loaded core を作ることも避けました。

レポートと計画も更新済みです：

- 003E report
- ROADMAP.md
- STATUS.md
- README.md

検証結果：

- focused build 成功
- `lake build DkMath.FLT.Seven` 成功、8374 jobs
- `git diff --check` 成功
- `sorry` / `admit` / `native_decide` なし

**Review by Deskuma — COMMENTED** [review]
## FUSION-003E review — accepted through the exact two-cell norm gate

Reviewed at `e7092d7a097b618f7fb19c0f8df5841bbee293ff`.

No blocking issue was found in this checkpoint.

The implementation correctly fixes:

- the direct Bezout proof `IsCoprime (r*l) gapRoot` without prime factorization;
- pairwise coprimality of the three normalized real-pair cores;
- the exact Galois cycle of the carriers and the unit-twisted orbit of the cores;
- the sign-sensitive identity `norm C_i = -quotientRoot` for all three cores;
- seventh-power splitting of all cells in column three;
- both directions of the exact gate
  `quotientRoot signed seventh power <-> c21 and c22 natural seventh powers`;
- conditional PID associated-power extraction for every core;
- the exact gcd meanings of the two unresolved cells.

The distinction from RAMIFIED-006 is essential and correctly preserved. The old theorem has

```text
old c21 = gcd(|seventhPowerSndCore|, 7^5) = 1,
```

whereas the FUSION board has

```text
new c21 = gcd(|quotientRoot|, |innerFst|),
new c22 = gcd(|quotientRoot|, |innerFst + innerSnd|).
```

No field-name transfer is valid.

### Strong next inference: the two cells contain only cyclotomic split primes

For every rational prime `q` dividing `quotientRoot`:

1. `q != 7` from `quotientRoot_not_seven_dvd`;
2. `q` does not divide `gapRoot` from `gapRoot_isCoprime_quotientRoot`;
3. therefore `q` does not divide `r-l = 7^4*gapRoot`;
4. `q` divides `signedSeventhQuotient r l`;
5. neither `r` nor `l` is zero modulo `q`, by signed-root coprimality;
6. hence `r/l` is a nontrivial seventh root of unity in `F_q`.

Therefore the multiplicative order of `r/l` is exactly seven, so

```text
q ≡ 1 mod 7.
```

Thus `c21` and `c22` are not arbitrary scalar obstructions. They are composed entirely of primes that split completely in the real cubic subfield. This identifies them as the missing real-pair prime loads.

### Recommended FUSION-003F

Do not multiply a core by a rational scalar and infer extraction from its norm; scalar multiplication inserts all three conjugate prime factors and destroys the required coprime distribution.

Instead lift each integer routing cell into the real cubic PID by canonical gcd factors. For `j = 21,22`, define conceptually

```text
lambda(i,j) = gcd_O(C_i, scalar(c2j)).
```

The target packet should prove:

```text
lambda(0,j) * lambda(1,j) * lambda(2,j) ~ scalar(c2j),
C_i ~ lambda(i,21) * lambda(i,22) * D_i,
D_0 * D_1 * D_2 ~ t^7,
pairwise coprimality of the D_i,
D_i ~ root_i^7.
```

The load factors should cycle under the cubic Galois action. This would be the genuine coherence theorem between the integer gcd addresses `c21,c22` and the three real-pair phases.

A useful first theorem is:

```lean
theorem prime_dvd_quotientRoot_modSeven_eq_one
    (p : RamifiedSignedRootDepthPacket)
    {q : ℕ} (hq : Nat.Prime q)
    (hqe : (q : ℤ) ∣ p.quotientRoot) :
    q % 7 = 1
```

followed by a packet retaining the nontrivial local `mu_7` ratio
`r/l : (ZMod q)ˣ`, and then its quotient by inversion as the local real-pair address.

Keep the PR Draft. No oriented degree-six factor, reconstructed Fermat chart, descent, or FLT7 conclusion is justified yet.

**Comment by Deskuma** [comment]
作業詳細：

FLT7-FUSION-003E の指示書を最終行まで読み、現在の二セル停止条件と ROADMAP を照合します。その後、独立に調べられる「既存 provenance/coherence 経路」と「数論的な gcd-cell 制御」を並行探索し、主系では Lean が許す最短の補題鎖を実装します。成立した事実から自然に先へ進める限り継続します。

指示書は 725 行、ROADMAP は 1054 行まで確認しました。次段は正式に FUSION-003F です。ここでは作業を三分し、(1) quotient prime の `μ₇` address と評価準同型、(2) PID gcd による load allocation の Mathlib API、(3) Branch B の数学的健全性を独立に検証します。私は並行して現行 packet と有限群 API を接続し、成立する部分から統合します。

PID 側では最初の実装結果が出ました。一般の gcd domain で「pairwise coprime な3因子の積を割る load は、3つの gcd 射影の積と associated」という補題が Lean を通り、これを `c21` と `c22` の双方へ適用できました。完全分解する整数素数が複数の algebraic prime に割れる現象も、この gcd 射影が正しく吸収します。次に二種類の load を各 core から整除 witness 付きで剥がします。

Event 6–8 の実装はすでに Lean を通過しています。ここから同じ packet に Galois 回転下の load の `Associated` 同値を固定し、並行実装中の cyclotomic prime-address 側と統合して、可能なら Branch A 回収まで進めます。

cyclotomic 側も Lean 検証を通過しました。prime divisor に対する `q ≡ 1 (mod 14)`、canonical μ₇ ratio、実三次環から `ZMod q` への評価写像、carrier/core の消滅まで固定されています。いま両側の公開 API を監査し、003F の統合 packet とレポートへまとめます。

Event 10 も閉じました。`c21,c22` が七乗である特殊場合には、各 gcd load 自体を pairwise-coprime product から七乗抽出し、residual root へ吸収して既存 Branch A packet を再構成できます。さらに停止条件の先として、各 load の absolute cubic norm がそれぞれ厳密に `c21`,`c22` であることまで Lean が通っています。

ROADMAP と handoff 文書も 003F の実装境界へ更新中です。現時点の正確な境界は「unconditional loaded residual seventh powers + exact load norms」であり、まだ primitive chart や strict decrease ではありません。さらに一段、`q | c21/c22` を評価核内の具体的 gcd load に結びつける局所 packet を検証しています。

局所 prime-load packet も成功しました。選ばれた index-0 load だけがその canonical kernel に入り、同じ family の index 1/2 と他方 cell の load は coprimality により kernel 外です。これで整数 gcd address から次数 1 の最大イデアルまでの向きが明示されました。最終 aggregate build と禁止事項監査に入ります。

指定された 003F は Outcome A、aggregate `DkMath.FLT.Seven` まで成功です。ユーザー指示どおりここで止めず、現在の新しい停止点 `span(load) ≤ kernel` の先を監査します。具体的には prime-power ideal valuation、三つの Galois kernel の巡回、primitive chart に必要な欠落データを並行で調べ、即時に Lean 化できる部分だけ続けます。

追加監査では、完全な primitive chart へ直行する根拠はまだ見えていません。一方、局所側では `q` 上の三つの次数 1 kernel を Galois 輪として組み、rational ideal `(q)` の完全分解まで届く可能性があります。ここは「同じ norm だから等しい」と飛躍せず、ideal containment と有限指数を Lean で確認しています。

現在の frontier はかなり明瞭です。kernel への membership と residue degree 1 は固定済みですが、element-level load は複数 prime/power を含めます。そのため次の正しい量は `evalKernel` の principal ideal 内 multiplicity であり、単純な `span(load)=kernel` ではありません。Lean ではまず ideal norm と nonzero/prime 条件を固定し、exact exponent が現データだけで決まるかを検証中です。

003F の停止条件を越えて、すでに「素イデアルの完全分解」まで Lean で固定できています。ここから、その分解と load の排他所属を結合し、未確定だった局所重複度を通常の \(q\)-進指数と一致させられるかを最優先で詰めます。同時に、次の degree-6 cyclotomic carrier の実装可能境界もコードから探索します。

完全分解の意味はかなり強く、単なる「3つの kernel が見つかった」ではありません。各 \(q\) について、同じ load が他の2つの \(q\)-prime を避けることまで証明済みなので、いま残っている不等式 `count ≤ padicValNat` は等式へ閉じる公算が高いです。これが通れば、scalar cell の全 \(q\)-primary 情報が1つの oriented real-pair load に正確に集約されたことになります。

次の carrier も抽象 receiver だけで止めず、具体的な二次拡大として構成中です。候補は

$$
\mathcal O^+[\zeta]/(\zeta^2-(\alpha-1)\zeta+1)
$$

で、Lean の `AdjoinRoot` 上に置けば、\(\zeta^7=1\)、\(\zeta\neq1\)、\((R-\zeta L)(R-\zeta^{-1}L)=P_0\) を同じ型の中で検証できます。さらに各 canonical ratio への評価まで繋げるところを狙っています。
指数側は狙いどおり閉じる形まで到達しました。証明は、\((q)=P_0P_1P_2\) の各 \(P_i\) が一度ずつ現れること、scalar cell の principal ideal が3 load ideals の積であること、\(P_0\) が load 1/2 を割らないことを factor count で合成します。現在、`evalKernelMultiplicity = padicValNat q cell` の focused build を通している段階です。
degree-6 側も receiver ではなく具体 inhabit まで通りました。`QuadraticAlgebra` 上で rank 6 の整数座標、\(\zeta^7=1\)、局所評価 \(\zeta\mapsto t\)、carrier 積恒等式を検証し、additive-frontier packet は無条件に inhabited です。さらに oriented factor を含み conjugate factorを含まない極大 ideal、その real-cubic contraction と整数 contraction、residue cardinality \(q\) まで focused build が成功しています。
完全 Galois 分解から kernel multiplicity と `padicValNat` の無条件等式が Lean で成立しました。さらに有限 support 全体の load ideal factorization と、具体 degree-6 carrier / oriented prime address を継続しています。

- [x] 003F の実装済み prime-load / loaded-core 層と完全 Galois 分解を監査する
- [x] 完全分解から局所 kernel 重複度と通常の q 進指数の一致を証明する
- [ ] degree-6 cyclotomic carrier、有限 load factorization、additive chart 前段を最大範囲まで実装する
- [ ] facade・README・STATUS・ROADMAP・review reports を正確な境界へ更新する
- [ ] 全関連 Lean target、禁止語、diff を最終検証する

※作業中断（利用制限枠到達）

---

※作業中断からの復旧

段階の仕上げを完遂しました。

- SevenRamifiedFusionCyclotomicConjugatePrimePair.lean
  - 共役 carrier 2補題の積順序を修正。
  - `conjugateEval_surjective` を、明示した定数 witness の直接評価へ修正。
  - 単独ビルド成功。

- Seven.lean
  - Galois splitting、exact valuation、global factorization、additive frontier、degree-six carrier、linear/conjugate prime address を公開 import に追加。
  - `lake build DkMath.FLT.Seven` 成功（8389 jobs）。

- 文書更新
  - README.md
  - STATUS.md
  - ROADMAP.md
  - 003F report
  - 新規現状報告：FLT7-FUSION-004A-DEGREE-SIX-ORIENTATION-REPORT.md

検証結果：

- 関連する全新規モジュール＋公開 facade：ビルド成功
- `sorry` / `admit` / `axiom` / `native_decide`：新規 Lean ファイル内に検出なし
- `git diff --check`：成功
- `git diff --cached --check`：成功

現在の正確な停止点は、共通 real prime の拡大と二つの共役 degree-one prime の積を一致させる逆包含です。
これは `ConjugatePrimeFiberProductEqualityObligation` として明示的に残してあり、primitive chart、strict decrease、descent、FLT7 はまだ主張していません。

**Comment by Deskuma** [comment]
## Final checkpoint — FLT7-FUSION first expedition

Final head: `4fbf0182ef60c9c7918b6821277f560beae5733e`

This PR is now frozen as the stable camp through FUSION-004A.

### Completed in this expedition

- exact signed-root and real-pair reconstruction from the RAMIFIED axis-drop packet;
- three pairwise-coprime real-pair cores with cyclic Galois coherence and exact norm `-quotientRoot`;
- unconditional loaded residual seventh powers
  ```text
  C_i ~ load21_i * load22_i * residualRoot_i^7;
  ```
- canonical quotient-prime `mu_7` addresses and `q % 14 = 1`;
- exact equality between routed integer `q`-adic depth and the addressed real-cubic prime-ideal multiplicity;
- finite-support global factorization of each principal gcd-load ideal;
- formal exclusion of the naive direct signed-root Fermat chart;
- a concrete integral rank-six quadratic carrier with explicit `zeta`, `zetaInv`, oriented/conjugate factors, and two distinct maximal comaximal conjugate degree-one prime addresses.

### Exact frontier carried forward

The remaining local obligation is

```text
ConjugatePrimeFiberProductEqualityObligation
```

namely the reverse containment required to upgrade

```text
map(ofReal, realPrime) <= orientedPrime * conjugatePrime
```

to exact fibre equality.

Primitive additive chart reconstruction, strict decrease, descent closure, terminal contradiction, and FLT7 remain outside this checkpoint.

Lean CI passed at the final head. The next focused PR will begin from the merged `develop` branch and continue only from this explicit fibre frontier.

**Comment by Deskuma** [comment]
## Continuation

The next focused checkpoint is now open as PR #74:

- PR: https://github.com/Deskuma/dkmath/pull/74
- branch: `wip/FLT7-fusion-004b-conjugate-fiber-260730`
- base: `develop`
- starting merge checkpoint: `bac2a3b1f5881a4341138e7d47429c98ca9ca4b1`
- handoff document: `lean/dk_math/DkMath/FLT/Seven/docs/FLT7-FUSION-004B-CONJUGATE-PRIME-FIBER.md`

PR #74 isolates `ConjugatePrimeFiberProductEqualityObligation` and begins with the reverse containment required for exact conjugate-prime fibre equality. Primitive additive reconstruction and strict descent remain outside its initial scope.
